US04474777
A solution of 75 g (0.239 mol) of (S)-7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one in 1500 ml of glacial acetic acid is cooled to 0°, treated rapidly with a solution of 12.5 ml of bromine in 350 ml of glacial acetic acid and then the mixture is stirred at 0° for a further 30 minutes. The mixture is treated with ice/water and extracted with methylene chloride. The organic extract is dried over sodium sulphate and evaporated. The residue obtained is recrystallized from methylene chloride/ether and there is obtained (S)-7-amino-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one of melting point 243°; [α]25D =41.7° (1 percent solution in methylene chloride).

reactant | (S)-7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | 0.239 mol, 75 g | NC=1C=CC2=C(C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)Cl)C1 | C17H16ClN3O
reactant | bromine | 12.5 ml | BrBr | Br2
solvent | acetic acid | 1500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | (S)-7-amino-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)Cl)C1Br | C17H15BrClN3O
